US07378418B2
Preparation of 7,8-bis(4-chlorophenyl)-2-(3-ethoxy-2-hydroxypropyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
To a solution of 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (300 mg, 0.84 mmol), prepared as described in Example 1, in 8 mL of DMF was added ethyl glycidyl ether (86 mg, 0.84 mmol), followed by K2CO3 (232 mg, 1.68 mmol). The mixture was heated at 85° C. After stirring overnight, the reaction was allowed to cool to RT The reaction mixture was diluted with EtOAc (200 mL). The resultant solution was washed with saturated aqueous NaCl (3×40 mL). The organic layer was dried over MgSO4, filtered, and concentrated under reduced pressure. The crude product was purified using silica gel column chromatography using an automated system, eluting with a gradient of 0% to 60% EtOAc/hexanes for 30 min followed by 100% EtOAc for 40 min. The title compound, 7,8-bis(4-chlorophenyl)-2-(3-ethoxy-2-hydroxypropyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (0.3 gm, 78% yield) as a yellow solid. MS [M+H]+: found 459; 1H NMR (CDCl3, 400 MHz) δ 8.20 (s, 1H), 7.34-7.25 (m, 6H), 7.09 (d, 2H), 4.29-4.24 (m, 2H), 4.18-4.13 (m, 1H), 3.57-3.49 (m, 4H), 1.17 (t, 3H).

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.84 mmol, 300 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | ethyl glycidyl ether | 0.84 mmol, 86 mg | C(C1CO1)OCC | C5H10O2
reactant | K2CO3 | 1.68 mmol, 232 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 7,8-bis(4-chlorophenyl)-2-(3-ethoxy-2-hydroxypropyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.3 gm, 78% yield | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(N2)CC(COCC)O)=O)C2=CC=C(C=C2)Cl | C22H20Cl2N4O3
